US05112988
N,N'-Carbonyldiimidazole (0.44 g) is added to a solution, cooled to +4° C., of (2-dimethylaminophenyl)acetic acid (0.49 g) in dry dichloromethane (20 cc). The mixture is stirred for 1 hour at 25° C. and a solution of 7,7-bis(2-fluorophenyl)perhydro-4-isoindolone hydrochloride (1 g) and triethylamine (0.76 cc) in dry dichloromethane (25 cc) is then added dropwise. The reaction mixture is stirred for 20 hours at 25° C. and washed with water (2×100 cc) and with saturated sodium chloride solution (100 cc). The organic phase is dried over magnesium sulphate and concentrated to dryness under reduced pressure (2.7 kPa). The residue is chromatographed on a column of silica gel (particle size 0.04-0.063 mm, diameter 2 cm, height 23 cm), eluting under a nitrogen pressure of 0.5 bar with a mixture of cyclohexane and ethyl acetate (50:50) and collecting 10-cc fractions. Fractions 14 to 36 are combined and concentrated to dryness under reduced pressure (2.7 kPa) to give (3aRS,7aRS)-7,7-bis(2 -fluorophenyl)-2-[(2-dimethylaminophenyl)acetyl]perhydro-4-isoindolone (1 g), the hydrochloride of which is prepared by dissolution in ethyl acetate (2 cc) and the addition of a 3N solution of hydrochloric acid in isopropyl ether. The precipitate is drained, washed with isopropyl ether and dried. (3aRS,7aRS)-7,7-Bis(2-fluorophenyl)-2-[(2-dimethylaminophenyl)acetyl]perhydro-4-isoindolone hydrochloride (0.87 g) is obtained in the form of a white solid.

reactant | (2-dimethylaminophenyl)acetic acid | 0.49 g | CN(C1=C(C=CC=C1)CC(=O)O)C | C10H13NO2
reactant | 7,7-bis(2-fluorophenyl)perhydro-4-isoindolone hydrochloride | 1 g | Cl.FC1=C(C=CC=C1)C1(CCC(C2CNCC12)=O)C1=C(C=CC=C1)F
reactant | triethylamine | 0.76 cc | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 cc | ClCCl | CH2Cl2
solvent | dichloromethane | 25 cc | ClCCl | CH2Cl2
product | (3aRS,7aRS)-7,7-bis(2 -fluorophenyl)-2-[(2-dimethylaminophenyl)acetyl]perhydro-4-isoindolone | 1 g | FC1=C(C=CC=C1)C1(CCC(C2CN(CC12)C(CC1=C(C=CC=C1)N(C)C)=O)=O)C1=C(C=CC=C1)F | C30H30F2N2O2
